* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
R_R4         $N_0003 0  1k  
V_V1         $N_0001 $N_0004 20V
V_V2         $N_0002 0 40V
R_R3         $N_0002 $N_0003  2k  
R_R5         $N_0004 0  6k  
R_R2         $N_0003 $N_0001  5k  
