* Schematics Netlist *



V_V2         $N_0001 $N_0002 40V
R_R1         $N_0004 $N_0003  5k  
R_R2         $N_0004 $N_0001  10k  
V_V1         $N_0001 $N_0003 20V
R_R3         $N_0004 $N_0002  5k  
