* Schematics Netlist *



V_Vac         $N_0001 0 DC 0 AC 1
+SIN 0 1 1k 0 0 0
R_R1         $N_0002 $N_0001  100  
L_L1         $N_0002 0  10mH  
