* Schematics Netlist *



V_Vac         $N_0001 0 DC 0 AC 1
+SIN 0 1 1k 0 0 0
R_R1         $N_0002 0  100  
L_L1         $N_0003 $N_0002  10mH  
C_C1         $N_0001 $N_0003  1u  
