* Schematics Netlist *



V_Vac         $N_0001 0 DC 0 AC 0
+SIN 0 5 60 0 0 0
C_C1         0 $N_0002  500u  
R_R1         $N_0001 $N_0002  5  
