* Schematics Netlist *



R_Rbb         $N_0002 $N_0001  10.75k  
D_D1         $N_0003 $N_0004 D1N4002 
D_D2         $N_0005 $N_0003 D1N4002 
C_C2         0 $N_0006  100n  
R_Rp1         $N_0004 $N_0007  100  
R_Rp2         $N_0007 $N_0005  9.9k  
R_R27         0 $N_0008  1k  
R_R26         $N_0008 $N_0009  1k  
R_R28         $N_0011 $N_0010  1k  
C_C6         0 $N_0010  160n  
R_Rc         $N_0013 $N_0012  250  
X_X11         0 $N_0007 $N_0014 $N_0012 $N_0006 $N_0007 $N_0003 $N_0012 555D
+  PARAMS: MAXFREQ=3E6
R_R24         $N_0003 $N_0012  1k  
V_Vdc         $N_0012 0 9V
Q_Q1         $N_0013 $N_0002 $N_0015 Q2N2222
R_R21         0 $N_0011  1k  
E_U1         $N_0009 0 VALUE {LIMIT(V($N_0010,$N_0008)*1E6,-15V,+15V)}
V_V7         $N_0015 $N_0011 DC 0 AC 0
+SIN 0 5V 200Hz 0 0 0
R_R3         $N_0014 $N_0001  10  
C_C1         0 $N_0007  3n  
