* Schematics Netlist *



E_U9         $N_0003 0 VALUE {LIMIT(V($N_0001,$N_0002)*1E6,-15V,+15V)}
R_R20         $N_0002 $N_0003  1k  
E_U3         $N_0005 0 VALUE {LIMIT(V($N_0004,$N_0002)*1E6,-15V,+15V)}
R_R19         $N_0002 $N_0005  1k  
E_U8         $N_0007 0 VALUE {LIMIT(V($N_0006,$N_0002)*1E6,-15V,+15V)}
R_R18         $N_0002 $N_0007  1k  
E_U7         $N_0009 0 VALUE {LIMIT(V($N_0008,$N_0002)*1E6,-15V,+15V)}
R_R17         $N_0002 $N_0009  1k  
E_U6         $N_0011 0 VALUE {LIMIT(V($N_0010,$N_0002)*1E6,-15V,+15V)}
R_R16         $N_0002 $N_0011  1k  
R_R15         $N_0002 $N_0012  1k  
R_R14         $N_0002 $N_0013  1k  
E_U5         $N_0013 0 VALUE {LIMIT(V($N_0014,$N_0002)*1E6,-15V,+15V)}
E_U4         $N_0012 0 VALUE {LIMIT(V($N_0015,$N_0002)*1E6,-15V,+15V)}
R_R22         $N_0014 $N_0015  1k  
R_R21         0 $N_0014  1k  
R_R23         $N_0015 $N_0010  1k  
R_R25         $N_0008 $N_0006  1k  
R_R24         $N_0010 $N_0008  1k  
R_R26         $N_0006 $N_0004  1k  
V_V6         $N_0016 0 10V
R_R28         $N_0004 $N_0001  1k  
R_R27         $N_0001 $N_0016  3k  
R_R2         $N_0018 $N_0017  2k  
R_R6         $N_0019 $N_0017  1k  
R_R3         $N_0020 $N_0019  2k  
R_R7         $N_0021 $N_0019  1k  
R_R4         $N_0022 $N_0021  2k  
R_R9         $N_0023 $N_0021  2k  
E_U1         $N_0024 0 VALUE {LIMIT(V(0,$N_0023)*1E6,-15V,+15V)}
R_R10         $N_0024 $N_0023  2k  
R_R11         $N_0024 $N_0025  1k  
E_U2         $N_0002 0 VALUE {LIMIT(V(0,$N_0025)*1E6,-15V,+15V)}
R_R1         0 $N_0017  2k  
R_R12         $N_0002 $N_0025  4.2k  
V_VC         $N_0022 0 0
V_VB         $N_0020 0 0
V_VA         $N_0018 0 3
