* Schematics Netlist *



V_Vac         $N_0001 0 DC 0 AC 12
+SIN 0 12 60 0 0 0
D_D1         $N_0001 $N_0002 D1N4002 
R_RL         0 $N_0002  100  
