* Schematics Netlist *



D_D3         0 $N_0001 D1N4002 
D_D4         0 $N_0002 D1N4002 
D_D2         $N_0002 $N_0003 D1N4002 
D_D5         0 $N_0004 D1N750 
R_RL         0 $N_0004  587  
C_C1         0 $N_0003  400u  
V_Vac         $N_0001 $N_0002 DC 0 AC 12
+SIN 0 12 60 0 0 0
D_D1         $N_0001 $N_0003 D1N4002 
R_R1         $N_0003 $N_0004  60  
