* Schematics Netlist *



X_X1         $N_0001 $N_0003 $N_0002 2N1595
D_D1         $N_0004 $N_0001 D1N4002 
D_D3         0 $N_0005 D1N4002 
D_D2         $N_0005 $N_0001 D1N4002 
D_D4         0 $N_0004 D1N4002 
R_RL         0 $N_0002  100  
R_R1         $N_0006 $N_0003  1k  
V_Vac         $N_0004 $N_0005 DC 0 AC 0
+SIN 0 12V 60Hz 0 0 0
V_Vdc         $N_0006 0 0
