* Schematics Netlist *



R_RL         0 $N_0001  100  
V_Vac         $N_0002 0 DC 0 AC 0V
+SIN 0 179.6V 60Hz 0 0 0
X_TRIAC1         $N_0002 $N_0003 $N_0001 2N5444
R_R1         $N_0002 $N_0003  220  
