* Schematics Netlist *



E_U1         $N_0003 0 VALUE {LIMIT(V($N_0001,$N_0002)*1E6,-15V,+15V)}
R_R1         0 $N_0002  1k  
R_R2         $N_0002 $N_0003  9k  
V_Vin         $N_0001 0 DC 0 AC 0
+SIN 0 100mV 1kHz 0 0 0
