* Schematics Netlist *



R_R1+         $N_0002 $N_0001  1k  
E_U1         $N_0004 0 VALUE {LIMIT(V($N_0001,$N_0003)*1E6,-15V,+15V)}
R_R1-         $N_0005 $N_0003  1k  
R_R2+         0 $N_0001  100k  
V_Vin-         $N_0005 0 DC 0 AC 0
+SIN 0 1V 10kHz 0 0 0
V_Vin+         $N_0002 0 DC 0 AC 0
+SIN 0 1V 10kHz 0 0 0
R_R2-         $N_0003 $N_0004  10k  
