* Schematics Netlist *



V_V1         $N_0001 0 1V
V_V2         $N_0002 0 1V
V_V3         $N_0003 0 1V
R_R2         $N_0002 $N_0004  1k  
R_R1         $N_0001 $N_0004  1k  
R_R3         $N_0003 $N_0004  1k  
R_Rf1         0 $N_0005  1k  
E_U1         $N_0006 0 VALUE {LIMIT(V($N_0004,$N_0005)*1E6,-15V,+15V)}
R_Rf2         $N_0005 $N_0006  2k  
