* Schematics Netlist *



D_D1         0 $N_0001 D1N750 
R_RL         0 $N_0002  100  
D_D3         $N_0003 $N_0004 D1N4002 
D_D2         $N_0003 $N_0005 D1N4002 
V_Vac         $N_0005 $N_0004 DC 0 AC 17V
+SIN 0 17V 60Hz 0 0 0
D_D5         $N_0005 $N_0006 D1N4002 
D_D4         $N_0004 $N_0006 D1N4002 
C_C4         $N_0003 $N_0006  470u  
Q_Q1         $N_0007 $N_0001 $N_0002 Q2N2222
R_Rs         $N_0001 $N_0007  150  
V_V4         $N_0007 0 15,6V
